US04025349
Example 9: Preparation of 3-Ethyl-5-[(3-ethyl-2-benzothiazolinylidene)-1-chloroethylidene]rhodanine.
p-Toluenesulfonyl chloride (1.15 g, 0.006 mol) is added to 3-ethyl-5[(3-ethyl-2-benzothiazolinylidene)-1-hydroxyethylidene]rhodanine (1.82 g, 0.005 mol) in dry pyridine (15 ml). After stirring for 30 min. at room temperature, the solution is diluted with acetonitrile (25 ml), chilled and the dye collected, washed with acetonitrile, then ether. The yield is 0.74 g (39%)

reactant | p-Toluenesulfonyl chloride | 0.006 mol, 1.15 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 3-ethyl-5[(3-ethyl-2-benzothiazolinylidene)-1-hydroxyethylidene]rhodanine | 0.005 mol, 1.82 g | C(C)N1C(SC(C1=O)=C(C=C1SC2=C(N1CC)C=CC=C2)O)=S | C16H16N2O2S3
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 3-Ethyl-5-[(3-ethyl-2-benzothiazolinylidene)-1-chloroethylidene]rhodanine | C(C)N1C(SC(C1=O)=C(C=C1SC2=C(N1CC)C=CC=C2)Cl)=S | C16H15ClN2OS3
